US05744426
4-Chloro-3-(4-chloro-3-formylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole
At 85° C., 4.65 g (10 mmol) of 3-(3-dibromomethyl-4-chloro-phenyl)-4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazole were introduced a little at a time into 7 ml of concentrated sulfuric acid. The reaction solution was then stirred at 100° C. for 5 minutes, then stirred into 40 ml of ice-water. The solid product formed was filtered off and dried. Yield: 3.0 g;

reactant | 3-(3-dibromomethyl-4-chloro-phenyl)-4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazole | 10 mmol, 4.65 g | BrC(C=1C=C(C=CC1Cl)C1=NN(C(=C1Cl)OC(F)F)C)Br | C12H8Br2Cl2F2N2O
reactant | sulfuric acid | 7 ml | S(O)(O)(=O)=O | H2O4S
product | 4-Chloro-3-(4-chloro-3-formylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | ClC=1C(=NN(C1OC(F)F)C)C1=CC(=C(C=C1)Cl)C=O | C12H8Cl2F2N2O2
